data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_573266_2,[C:1]1(/[C:6]([C:4]([H:16])([H:17])[H:18])=[C:7](/[C:5]([H:19])([H:20])[H:21])[O:9][H:11])([O:8][H:10])[C:2]([H:12])([H:13])[C:3]1([H:14])[H:15]>>[C:1]1([O:8][H:10])=[C:6]([C:4]([H:16])([H:17])[H:18])[C:7]([C:5]([H:19])([H:20])[H:21])([O:9][H:11])[C:3]([H:14])([H:15])[C:2]1([H:12])[H:13],55.61093249995437
MR_387042_0,[C@@:1]([C:2]([H:14])([H:15])[H:16])(/[C:4]([C:3]([H:17])([H:18])[H:19])=[N:8]/[N:6]([H:12])[H:13])([N:5]([H:10])[H:11])[O:7][H:9]>>[C@@:1]1([C:2]([H:14])([H:15])[H:16])([O:7][H:9])[C@:4]([C:3]([H:17])([H:18])[H:19])([N:5]([H:10])[H:11])[N:8]1[N:6]([H:12])[H:13],72.59233749999055
MR_13323_0,[C:1](/[C:3]([C:4]([C:2]([H:13])([H:14])[H:15])=[C:6]([H:16])[H:17])=[C:5](/[O:7][H:8])[H:9])([H:10])([H:11])[H:12]>>[C:1]([C:3]([C:4]([C:2]([H:13])([H:14])[H:15])=[C:6]([H:16])[H:17])([C:5](=[O:7])[H:9])[H:8])([H:10])([H:11])[H:12],64.56786749999026
MR_658763_1,[C:1]1([H:13])([H:14])[C:3]([C:2](=[O:7])[O:8][H:9])([N:4]([H:11])[H:12])[C:5]1([C:6]([H:10])([H:16])[H:17])[H:15]>>[C:1]([C:3](=[C:2]([O:7][H:10])[O:8][H:9])[N:4]([H:11])[H:12])([C:5](=[C:6]([H:16])[H:17])[H:15])([H:13])[H:14],65.24493999999294
MR_446292_2,[C:1]([N:3]([N:4]([C:2]([H:15])([H:16])[H:17])/[C:6](=[N:7]/[H:10])[H:11])[N:5]([H:8])[H:9])([H:12])([H:13])[H:14]>>[C:1]([N:3]([N:5]([H:8])[H:9])[C@@:6]1([H:11])[N:4]([C:2]([H:15])([H:16])[H:17])[N:7]1[H:10])([H:12])([H:13])[H:14],72.40973499998788
MR_184500_1,[C:1]([C:2]([H:12])([H:13])[H:14])(/[C:4]([C:5]([C:3]([H:15])([H:16])[H:17])([O:8][H:9])[H:10])=[N:7]/[H:11])=[O:6]>>[C:1]([C:2]([H:12])([H:13])[H:14])(/[C:4]([C:5]([C:3]([H:15])([H:16])[H:17])=[O:8])=[N:7]/[H:11])([O:6][H:9])[H:10],60.95221249998758
MR_314782_0,[C@:1]([C:2]([C:5]([H:20])([H:21])[H:22])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([N:7]([H:10])[H:11])[O:8][N:6]([C:4]([H:17])([H:18])[H:19])[H:9]>>[C@:1]([C:3]([H:14])([H:15])[H:16])([N:6]([C:4]([H:17])([H:18])[H:19])[H:9])([N:7]([H:10])[H:11])[O:8][C:2]([C:5]([H:20])([H:21])[H:22])([H:12])[H:13],70.92695249998627
MR_482309_1,[C:1]1([O:6][H:8])([H:9])[C:3]([N:4]([H:10])[H:11])([O:5][C:2]([H:12])([H:13])[H:14])[O:7]1>>[C:1]([C:3]([N:4]([H:10])[H:11])=[O:7])([O:5][C:2]([H:12])([H:13])[H:14])([O:6][H:8])[H:9],28.891982499998363
MR_250996_1,[C:1]1([N:2]([H:9])[H:10])([H:8])[C@:3]([C:5]([C:4](=[C:6]([H:15])[H:16])[H:12])([H:13])[H:14])([H:11])[O:7]1>>[C:1]([N:2]([H:9])[H:10])([C:4](=[C:6]([H:15])[H:16])[H:12])([O:7][C:3](=[C:5]([H:13])[H:14])[H:11])[H:8],58.888992499989
MR_300723_1,[C:1]([C:3]([N:2]([N:5]=[C:4]([H:11])[H:12])[H:7])=[O:6])([H:8])([H:9])[H:10]>>[C:1]([C:3]([C:4](/[N:5]=[N:2]/[H:7])([H:11])[H:12])=[O:6])([H:8])([H:9])[H:10],70.23544749998436
MR_707309_0,[C:1]1(/[C:6]([C:4]([H:16])([H:17])[H:18])=[C:7](\[C:5]([H:19])([H:20])[H:21])[N:8]([H:10])[H:11])([H:9])[C:2]([H:12])([H:13])[C:3]1([H:14])[H:15]>>[C:1]1([H:9])=[C:6]([C:4]([H:16])([H:17])[H:18])[C:7]([C:5]([H:19])([H:20])[H:21])([N:8]([H:10])[H:11])[C:3]([H:14])([H:15])[C:2]1([H:12])[H:13],58.18619249997994
MR_396473_0,[C:1](/[C:4](=[C:2]([N:3]([H:7])[H:8])/[N:5]=[N:6]\[H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:4]1([H:10])[C:2]([N:3]([H:7])[H:8])=[N:5][N:6]1[H:9])([H:11])([H:12])[H:13],38.12941000003946
MR_437838_0,[C:1]([C:3](/[C:2]([N:4]([H:10])[H:11])=[C:7](/[N:5]([H:12])[H:13])[H:15])=[C:6](/[O:8][H:9])[H:14])([H:16])([H:17])[H:18]>>[C:1]([C:3]1=[C:2]([N:4]([H:10])[H:11])[C:7]([N:5]([H:12])[H:13])([H:15])[C:6]1([O:8][H:9])[H:14])([H:16])([H:17])[H:18],40.48065250002424
MR_413732_0,[N:1](/[C:2]([N:5]([H:13])[H:14])=[N:7]/[N:4]([H:11])[H:12])([N:3]([H:9])[H:10])[O:6][H:8]>>[N:1](=[C:2](\[N:5]([H:13])[H:14])[N:7]([N:3]([H:9])[H:10])[N:4]([H:11])[H:12])\[O:6][H:8],67.2240749999898
MR_354276_0,[C:1]1([H:10])([H:11])[N:3]([H:8])[C:5]1([O:7]/[C:4]([C:2]([H:13])([H:14])[H:15])=[N:6]\[H:9])[H:12]>>[C:1]([N:3](/[C:4]([C:2]([H:13])([H:14])[H:15])=[N:6]\[H:9])[H:8])([C:5](=[O:7])[H:12])([H:10])[H:11],47.22878750000106
MR_216514_1,[C:1]([O:3][N:5][N:6][C:2]([H:10])([H:11])[H:12])([O:4][H:7])([H:8])[H:9]>>[C:1]([O:4][H:7])([N:6]([C:2]([H:10])([H:11])[H:12])[N:5]=[O:3])([H:8])[H:9],40.78059749998033
MR_485607_1,[C:1]([N:3]([H:9])[H:10])([N:5]=[O:7])(/[N:6]=[C:4](\[C:2]([H:12])([H:13])[H:14])[H:11])[H:8]>>[C:1](\[N:3]([H:9])[H:10])(=[N:6]\[C:4]([C:2]([H:12])([H:13])[H:14])([N:5]=[O:7])[H:11])[H:8],20.76460250004388
MR_394761_2,[C:1]([N:2]([H:7])[H:8])(=[C:4]([H:11])[H:12])[O:5]/[C:3](=[N:6]/[H:9])[H:10]>>[C:1]([N:2]([H:7])[H:8])(=[C:4]([H:11])[H:12])[N:6]([C:3](=[O:5])[H:10])[H:9],40.322522499959774
MR_648964_0,[C:1](=[C:2]([H:9])[H:10])([O:7][C:3](=[C:4]([H:12])[H:13])[O:6][O:5][H:11])[H:8]>>[C:1]1([C:2]([H:9])([H:10])[H:11])([H:8])[O:5][O:6][C:3](=[C:4]([H:12])[H:13])[O:7]1,42.84130750002092
MR_205861_2,[C:1]([C:6]([C:2]([C:4]([H:19])([H:20])[H:21])([H:14])[H:15])([N:5]([C:3]([H:16])([H:17])[H:18])[N:7]([H:12])[H:13])[O:9][H:10])(=[O:8])[H:11]>>[C:1]([C:2]([C:4]([H:19])([H:20])[H:21])([H:14])[H:15])([C:6]([N:5]([C:3]([H:16])([H:17])[H:18])[N:7]([H:12])[H:13])=[O:9])([O:8][H:10])[H:11],36.63094000000612
